US05948817
Crude 5-(4-methoxyphenyl)-1,3-benzodioxole-4-carboxylic acid was dissolved in thionyl chloride (10 mL) and refluxed for 6 h. The reaction was cooled to ambient temperature and the solvent was removed by rotary evaporation to give the crude acid chloride. The acid chloride was dissolved in methylene chloride (10 mL) and added to a suspension of aluminum chloride (0.67 g, 5.00 mmol) in methylene chloride (10 mL). The reaction was stirred at ambient temperature for 4 h and quenched with a mixture of ice and concentrated HCl. The mixture was extracted with methylene chloride and dried with magnesium sulfate and concentrated by rotary evaporation to afford 89 mg of 8-methoxy-10H-fluoreno[1,2-d]-1,3-dioxol-10-one (0.35 mmol, 45% yield). 1H NMR (300 MHz, CDCl3) δ 7.54 (d, J=8.3 Hz, 1H), 7.10 (d, J=8.3 Hz, 1H), 7.06 (d, J=2.2, 1H), 6.88 (dd, J=8.3, 2.2 Hz, 1H), 6.90 (d, J=8.3 Hz, 1H), 6.15 (s, 2H), 3.86 (s, 3H). Sodium hydride (21 mg, 0.53 mmol) was suspended in THF (5 mL) and diethyl cyanomethylphosphonate (94 mg, 0.53 mmol) was slowly added to the suspension. After 15 min a yellow solution resulted and a solution of 8-methoxy-10H-fluoreno[1,2-d]-1,3-dioxol-10-one (89 mg, 0.35 mmol) in THF (5 mL) was added dropwise. The solution was allowed to stir at ambient for 16 h. The solvent was removed by rotary evaporation and the residue was taken up in methylene chloride, washed with water, and dried with magnesium sulfate. The solvent was removed by rotary evaporation to yield the crude Horner-Emmons product as an orange solid.

reactant | 5-(4-methoxyphenyl)-1,3-benzodioxole-4-carboxylic acid | COC1=CC=C(C=C1)C1=C(C2=C(OCO2)C=C1)C(=O)O | C15H12O5
reactant | aluminum chloride | 5.00 mmol, 0.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-methoxy-10H-fluoreno[1,2-d]-1,3-dioxol-10-one | 0.35 mmol, 89 mg, 45% yield | COC1=CC=C2C=3C=CC4=C(OCO4)C3C(C2=C1)=O | C15H10O4
